US20010025039A1
2,3-Dihydro-1H-3a,6-diaza-cyclopenta[a]indene-8-carbaldehyde
To dimethylformamide (0.3 ml) was added phosphorus oxychloride (0.33 ml) dropwise at 0° C. The mixture was allowed to stir for 10 min at room temperature. A solution of 2,3-dihydro-1H-3a,6-diaza-cyclopenta[a]indene (0.10 g 0.63 mMol) in 0.1 ml dimethylformamide was added and the mixture was stirred at room temperature for 3 h. The reaction was quenched with ice (ca 5 g) and the pH was adjusted to 9 by addition of 28% sodium hydroxide. The mixture was heated to reflux for 10 min. cooled to room temperature and extracted with ethyl acetate(3×5 ml) The combined organic extracts were dried with sodium sulfate and evaporated to dryness to yield the title compound (0.115 g, 97% Th). For analytical purposes a sample was recrystallised from ethyl acetate to afford slightly yellow crystals. mp 150-151° C. Found C, 70.94; H, 5.56; N, 14.97%; C11H10N2O requires C, 70.95; H, 5.41; N. 15.04%

reactant | phosphorus oxychloride | 0.33 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 2,3-dihydro-1H-3a,6-diaza-cyclopenta[a]indene | 0.63 mMol, 0.10 g | C1CCN2C1=CC=1C=NC=CC21 | C10H10N2
reactant | dimethylformamide | 0.1 ml | CN(C=O)C | C3H7NO
reactant | dimethylformamide | 0.3 ml | CN(C=O)C | C3H7NO
product | 2,3-Dihydro-1H-3a,6-diaza-cyclopenta[a]indene-8-carbaldehyde | 0.115 g, 97% | C1CCN2C1=C(C=1C=NC=CC21)C=O | C11H10N2O
